US07825256B2
5-Chloro-[1,2,4]thiadiazol-3-ylamine (1.00 g, 7.40 mmol) and glyoxal 40% wt (5.35 g, 92.0 mmol) were dissolved in ethanol (100 mL). The solution was stirred at 80° C. for 4 hours. Ammonium chloride (1.97 g, 37.0 mmol), formaldehyde (2.97 g, 37.0 mmol) and phosphoric acid (2.97 g, 30.0 mmol) were added to the solution and stirred overnight. The reaction was concentrated down under vacuo and redissolved in water (50 mL). The solution was extracted with ethyl acetate (2×50 mL). The aqueous layer was neutralized with 1M NaOH, extracted with ethyl acetate (2×50 mL), dried over MgSO4 and concentrated under vacuo to afford 200 mg (20%) of 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole. 1H-NMR (400 MHz, CDCl3) δ 8.84 (s, 1H), 7.75 (d, 1H), 7.22 (d, 1H).

reactant | 5-Chloro-[1,2,4]thiadiazol-3-ylamine | 7.40 mmol, 1.00 g | ClC1=NC(=NS1)N | C2H2ClN3S
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | Ammonium chloride | 37.0 mmol, 1.97 g | [Cl-].[NH4+]
reactant | formaldehyde | 37.0 mmol, 2.97 g | C=O | CH2O
reactant | phosphoric acid | 30.0 mmol, 2.97 g | P(O)(O)(O)=O | H3O4P
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole | 200 mg, 20% | ClC1=NC(=NS1)N1C=NC=C1 | C5H3ClN4S
